US09388189B2
(S)—N-(4-(4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)pyridin-2-yl)-1-(tetrahydro-2H-pyran-4-yl)methanesulfonamide
(S)—N-(4-(4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)pyridin-2-yl)-1-(tetrahydro-2H-pyran-4-yl)methanesulfonamide (55 mg, 0.07 mmol) was treated with trifluoroacetic acid (2 ml, 26 mmol) and a solution of ammonia (7N in methanol, 2 ml, 91 mmol) according to the method described in Example 27 to give 5 mg (11% yield) of the title compound. Purity 99%.

reactant | (S)—N-(4-(4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)pyridin-2-yl)-1-(tetrahydro-2H-pyran-4-yl)methanesulfonamide | 0.07 mmol, 55 mg | CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC=2C1=C(N=CN2)N(C=C1C1=CC(=NC=C1)NS(=O)(=O)CC1CCOCC1)COCC[Si](C)(C)C | C38H47N9O5SSi
reactant | trifluoroacetic acid | 26 mmol, 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 91 mmol, 7N, 2 ml | N | H3N
product | (S)—N-(4-(4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)pyridin-2-yl)-1-(tetrahydro-2H-pyran-4-yl)methanesulfonamide | 5 mg, 11% yield | CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC=2C1=C(N=CN2)NC=C1C1=CC(=NC=C1)NS(=O)(=O)CC1CCOCC1 | C32H33N9O4S
